US07732618B2
a.) 4-Fluoro-N-(4-fluoro-3 -nitro-phenyl)-benzenesulfonamide: (Scheme 1)
Pyridine (500 uL, 6.19 mmol) was added to a solution of 4-fluoro-3-nitro-phenylamine (1 g, 6.41 mmol) and 4-fluoro-benzenesulfonyl chloride (1.2 g, 6.19 mmol) in dichloromethane (DCM) (20 mL) and the reaction was stirred at room temperature overnight. The reaction was then partitioned between water and DCM. The organic layer was washed several times with water and concentrated. Recrystalization from ethanol/water gave 1.57 g of the sub-title compound as tan crystals.

reactant | Pyridine | 6.19 mmol, 500 uL | N1=CC=CC=C1 | C5H5N
reactant | 4-fluoro-3-nitro-phenylamine | 6.41 mmol, 1 g | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | 4-fluoro-benzenesulfonyl chloride | 6.19 mmol, 1.2 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-Fluoro-N-(4-fluoro-3 -nitro-phenyl)-benzenesulfonamide | 1.57 g | FC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H8F2N2O4S
